US08232312B2
[(3-chloro-5-ethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid
134 mg [(3-chloro-5-trimethylsilylethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid are dissolved in 2 ml of methanol, combined with 50 mg potassium carbonate and stirred for 2 hours at ambient temperature. Then the mixture is diluted with dichloromethane and washed with 4 M hydrochloric acid. The organic phase is dried on magnesium sulphate and the solvent is then eliminated in vacuo. The residue is chromatographed on silica gel (dichloromethane/methanol 100:0 to 95:5).

reactant | [(3-chloro-5-trimethylsilylethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid | 134 mg | ClC=1C=C(C=C(C1)C#C[Si](C)(C)C)S(=O)(=O)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)CC(=O)O | C27H27ClN2O4SSi
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [(3-chloro-5-ethynyl-phenylsulphonyl)-(9-ethyl-9H-carbazol-3-yl)-amino]-acetic acid | ClC=1C=C(C=C(C1)C#C)S(=O)(=O)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)CC)CC(=O)O | C24H19ClN2O4S
